US04987235
Preparation of 5,6-diacetoxy-2-acetylindoline
500 mg (2.15 mmol) of 5,6-dihydroxyisoindoline hydrobromide was dissolved in 2.5 ml of pyridine, and 2.5 ml of acetic anhydride was added thereto at room temperature. The mixture was stirred at the same temperature for 30 minutes, and then excess pyridine and acetic anhydride were distilled off under reduced pressure. Ethyl acetate was added to the residue, and insoluble matters were filtered off. The filtrate was concentrated under reduced pressure, and the crystalline residue was washed with ethyl ether to obtain 532 mg (yield: 89.0%) of the above identified compound.

reactant | 5,6-dihydroxyisoindoline hydrobromide | 2.15 mmol, 500 mg | Br.OC=1C=C2CNCC2=CC1O
reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 5,6-diacetoxy-2-acetylindoline | yield: 89.0% | C(C)(=O)OC=1C=C2CC(NC2=CC1OC(C)=O)C(C)=O | C14H15NO5
